US04444770
N-[β-(2-Methyl-6-phenyl-imidazo[2,1-b]-1,3,4-thiadiazol-5-yl)-propenoyl]-2-ethyl-piperidine
143 g (0.5 mole) of β-(2-methyl-6-phenyl-imidazo[2,1-b]-1,3,4-thiadiazol-5-yl)-propenoic acid were suspended in 1.5 liters of absolute toluene at 60° to 70° C. 50 ml of thionyl chloride were added dropwise, a clear solution resulting. The solution was then heated under reflux for 2 hours and subsequently cooled to room temperature. 220 ml (1.5 moles) of 2-ethylpiperidine were next added dropwise and the mixture was boiled under reflux for one hour. The cooled mixture was filtered (the residue was discarded) and the filtrate was extracted twice with 300 ml of water. The toluene phase was dried over sodium sulphate and filtered and the filtrate was concentrated by distillation. The residue was recrystallised from 400 ml of ethyl acetate.

reactant | β-(2-methyl-6-phenyl-imidazo[2,1-b]-1,3,4-thiadiazol-5-yl)-propenoic acid | 0.5 mole, 143 g | CC1=NN2C(S1)=NC(=C2C=CC(=O)O)C2=CC=CC=C2 | C14H11N3O2S
reactant | thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-ethylpiperidine | 1.5 moles, 220 ml | C(C)C1NCCCC1 | C7H15N
reactant | toluene | 1.5 liters | C1(=CC=CC=C1)C | C7H8
product | N-[β-(2-Methyl-6-phenyl-imidazo[2,1-b]-1,3,4-thiadiazol-5-yl)-propenoyl]-2-ethyl-piperidine | CC1=NN2C(S1)=NC(=C2C(C(=O)N2C(CCCC2)CC)=C)C2=CC=CC=C2 | C21H24N4OS
